US04564610
5H-Pyrimido[5,4-b]indole-2-carboxylic Acid
Under argon, 10 g of 1,4-dihydro-5-tosyl-5H-pyrimido[5,4-b]indole-2-carboxylic acid ethyl ester is refluxed for 10 hours in 200 ml of xylene with 5 g of 10% Pd-carbon. The filtrate is then removed from the palladium-carbon by evaporation, the evaporation residue yielding, after recrystallization from an ethyl acetate/ether mixture, 5 g of 5-tosyl-5H-pyrimido[5,4-b]indole-2-carboxylic acid ethyl ester, mp 187°-189° C.

reactant | 1,4-dihydro-5-tosyl-5H-pyrimido[5,4-b]indole-2-carboxylic acid ethyl ester | 10 g | C(C)OC(=O)C1=NCC=2N(C=3C=CC=CC3C2N1)S(=O)(=O)C1=CC=C(C)C=C1 | C20H19N3O4S
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Pd carbon | 5 g | [Pd].[C]
product | 5H-Pyrimido[5,4-b]indole-2-carboxylic Acid | N1=C(N=CC=2NC=3C=CC=CC3C21)C(=O)O | C11H7N3O2
